US04048311
A mixture of 45.3 g. (0.19 mol.) of methyl sulfomethyldithiocarbamate potassium salt and 16.9 g. (0.26 mol.) of sodium azide in 425 ml. of water was heated at 80° for 4.75 hours. The reaction mixture was passed through an Amberlite IR-120H ion exchange resin column and eluted with water until the pH of the eluant became 3.5. The eluant was extracted with ether and the aqueous solution was evaporated to dryness to give 1-sulfomethyltetrazole-5-thiol.

reactant | methyl sulfomethyldithiocarbamate potassium salt | 0.19 mol | [K].S(=O)(=O)(O)CNC(SC)=S
reactant | sodium azide | 0.26 mol | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
product | 1-sulfomethyltetrazole-5-thiol | S(=O)(=O)(O)CN1N=NN=C1S | C2H4N4O3S2
